US04154941
To a refluxing mixture of 12.7 g. (0.092 mole) of potassium carbonate, 21.3 g. (0.092 mole) of 2,2,2-trifluoroethyl trifluoromethanesulfonate and 62 ml. of acetone is added dropwise 6.2 g. (0.040 mole) of 4-nitrocatechol in 62 ml. of acetone over about 2.5 hours. Refluxing is continued for a total of 24 hours, then the solution is evaporated. The residue is mixed with equal volumes of water and diethyl ether. The ether layer is separated, washed with water and saturated sodium chloride solution and dried. Evaporation provides crude 3,4-bis(2,2,2-trifluoroethoxy)nitrobenzene. Chromatographic purification on a silica gel column is effected by eluting with mixtures of chloroform and hexane. Recrystallization from cyclohexane with a small amount of benzene provides solid product, m.p. 63°-65° C.

reactant | potassium carbonate | 0.092 mole | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 0.092 mole | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | 4-nitrocatechol | 0.040 mole | [N+](=O)([O-])C=1C=C(C(O)=CC1)O | C6H5NO4
solvent | acetone | CC(=O)C | C3H6O
product | 3,4-bis(2,2,2-trifluoroethoxy)nitrobenzene | FC(COC=1C=C(C=CC1OCC(F)(F)F)[N+](=O)[O-])(F)F | C10H7F6NO4
